US05248803
In a 100 ml three-neck flask provided with a magnetic stirrer and a reflux condenser were charged 7.7 g (0.0404 mole) of cyclopentyl trimethoxysilane, 35.7 g (0.405 mole) of 3-hydroxy tetrahydrofurane and 53.0 mg (0.98 m mole) of sodium methoxide, which were then reacted with each other in an oil bath of 80° C. for 2 hours under stirring. After cooled, trimethylchlorosilane was added to neutralize the alkali. Then, 5.37 g (0.0218 mole) of cyclopentyl dimethoxy oxa-3-cyclopentyloxysilane were obtained by vacuum distillation. Its structure was confirmed as in Example 1. The yield was 54%.

reactant | cyclopentyl trimethoxysilane | 0.0404 mole, 7.7 g | C1(CCCC1)[Si](OC)(OC)OC | C8H18O3Si
reactant | 3-hydroxy tetrahydrofurane | 0.405 mole, 35.7 g | OC1COCC1 | C4H8O2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
catalyst | sodium methoxide | 53.0 mg | C[O-].[Na+]
product | cyclopentyl dimethoxy oxa-3-cyclopentyloxysilane | 0.0218 mole, 5.37 g, yield was 54% | C1(CCCC1)[Si](OC1COCC1)(OC)OC | C11H22O4Si
